US04889851
To a mixture of 4-methoxy-2-nitro-N-(4-chlorophenyl)benzenesulfonamide (37.2 g) and ammonium chloride (75.4 g) in a mixture of methanol (400 ml) and water (400 ml) was added iron (76.4 g) in small portions over a period of one and half hours at 100° C. The reaction mixture was refluxed for 8 hours and the hot mixture was filtrated. The filtrated cake was washed with hot methanol. The combined filtrates were evaporated under reduced pressure and the residue was extracted three times with ethyl acetate. The extracts were washed with water, dried, and concentrated to give crude product, which was purified by silica gel column-chromatography (elution by methylene chloride) to yield 2-amino-4-methoxy-N-(4-chlorophenyl) benzenesulfonamide (25.77 g).

reactant | 4-methoxy-2-nitro-N-(4-chlorophenyl)benzenesulfonamide | 37.2 g | COC1=CC(=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)Cl)[N+](=O)[O-] | C13H11ClN2O5S
reactant | ammonium chloride | 75.4 g | [Cl-].[NH4+]
solvent | methanol | 400 ml | CO | CH4O
solvent | water | 400 ml | O | H2O
catalyst | iron | 76.4 g | [Fe] | Fe
product | 2-amino-4-methoxy-N-(4-chlorophenyl) benzenesulfonamide | 25.77 g | NC1=C(C=CC(=C1)OC)S(=O)(=O)NC1=CC=C(C=C1)Cl | C13H13ClN2O3S
